US03953429
2β-Bromo-3α-hydroxy-5α-pregnane-11,20-dione (750 mg.) in pyridine (2 ml.) was treated with acetic anhydride (1 ml.) and the mixture was allowed to stand at room temperature overnight. It was then poured into water to give a white solid (720 mg.) which was recrystallised from methanol to give 3α-acetoxy-2β-bromo-5α-pregnane-11,20-dione (471 mg.) as white crystals, m.p. 154°-156°, [α]D + 128.5°.

reactant | 2β-Bromo-3α-hydroxy-5α-pregnane-11,20-dione | 750 mg | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H31BrO3
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3α-acetoxy-2β-bromo-5α-pregnane-11,20-dione | 471 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1Br)C)=O)C | C23H33BrO4
